US06806381B2
4-(2,6-Dibromo-4-nitrophenoxy)-2-isopropylphenol (795 g, 1.84 moles) was divided into three roughly equal portions. Each portion was dissolved in THF (2.6 L) and charged into a 12 L three-necked round bottom flask equipped with a mechanical stirrer, addition funnel, and temperature probe. The solutions were heated to 33° C. Sodium dithionite (482 g, 2.4 moles) dissolved in deionized water (2.6 L) was added to each flask. The reaction temperature was held at 50° C. until each reaction was complete as assayed by HPLC. Hydrochloric acid (6N aqueous) was added dropwise to the heated reaction mixtures until their pH was about 3, and heating was continued for 45 min. The reaction mixtures were cooled to room temperature and their pH was adjusted to 6.6 by addition of saturated aqueous sodium bicarbonate solution. Ethyl acetate (2.5 L) was added to each flask with stirring for 2 min. Each reaction mixture was separated, and each organic layer was washed once with half-saturated aqueous sodium chloride solution, then once with saturated aqueous sodium chloride solution. The solvents were removed by rotary evaporation and the solids were dried overnight in a vacuum oven at 40° C. to yield crude 4-(4-amino-2,6-dibromophenoxy)-2-isopropylphenol (657 g, 96.9%). The crude 4-(4-amino-2,6-dibromophenoxy)-2-isopropylphenol was purified by recrystallization from isopropanol upon addition of 2.5 volumes of deionized water (90% recovery).

reactant | 4-(2,6-Dibromo-4-nitrophenoxy)-2-isopropylphenol | 1.84 moles, 795 g | BrC1=C(OC2=CC(=C(C=C2)O)C(C)C)C(=CC(=C1)[N+](=O)[O-])Br | C15H13Br2NO4
reactant | Sodium dithionite | 2.4 moles, 482 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | Hydrochloric acid | 6N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 2.6 L | C1CCOC1 | C4H8O
solvent | water | 2.6 L | O | H2O
solvent | Ethyl acetate | 2.5 L | C(C)(=O)OCC | C4H8O2
product | 4-(4-amino-2,6-dibromophenoxy)-2-isopropylphenol | 657 g, 96.9% | NC1=CC(=C(OC2=CC(=C(C=C2)O)C(C)C)C(=C1)Br)Br | C15H15Br2NO2
